US09120819B2
3,3′-{(1R,2R)-cyclopropane-1,2-diyl-bis[imino(2-oxoethane-2,1-diyl)oxy]}dibenzoic acid
By following the processes described in stages A to C of Example R13, Example R35 is prepared by dimerization of [3-(ethoxycarbonyl)phenoxy]acetic acid with 1,2-trans-cyclopropanediamine (CAS 758637-65-9). A white powder is obtained.

reactant | [3-(ethoxycarbonyl)phenoxy]acetic acid | C(C)OC(=O)C=1C=C(OCC(=O)O)C=CC1 | C11H12O5
reactant | 1,2-trans-cyclopropanediamine | [C@@H]1([C@@H](C1)N)N | C3H8N2
product | 3,3′-{(1R,2R)-cyclopropane-1,2-diyl-bis[imino(2-oxoethane-2,1-diyl)oxy]}dibenzoic acid | [C@@H]1([C@@H](C1)NC(COC=1C=C(C(=O)O)C=CC1)=O)NC(COC=1C=C(C(=O)O)C=CC1)=O | C21H20N2O8
